US08076488B2
Step 3: Preparation of title compound 5-(4-Amino-3-fluorophenoxy)-N-methylnicotinamide
To a solution of 5-(4-amino-3-fluorophenoxy)nicotinic acid methyl ester (0.50 g, 1.91 mmol) in MeOH (2 mL) was added methylamine (0.63 g, 19.1 mmol, 2.0 M in MeOH). The reaction flask was sealed and heated at 40° C. for 4 h. Solvent was removed under reduced pressure, and the crude product was purified by column chromatography eluted with 5% MeOH/CH2Cl2 to give the 0.4 g (80%) of the title compound. 1H-NMR (DMSO-d6) δ 8.65 (d, J=1.8 Hz, 1H), 8.62 to 8.60 (m, 1H), 7.54 to 7.52 (m, 1H), 6.94 (dd, J=2.7, 12.0 Hz, 1H), 6.81 to 6.67 (m, 3H), 5.10 (s, 2H), 2.72 (d, J=2.4 Hz, 3H); MS LC-MS [M+H]+=262.2, RT=0.27 min.

reactant | 5-(4-amino-3-fluorophenoxy)nicotinic acid methyl ester | 1.91 mmol, 0.50 g | COC(C1=CN=CC(=C1)OC1=CC(=C(C=C1)N)F)=O | C13H11FN2O3
reactant | methylamine | 19.1 mmol, 2.0 M, 0.63 g | CN | CH5N
solvent | MeOH | 2 mL | CO | CH4O
product | 5-(4-Amino-3-fluorophenoxy)-N-methylnicotinamide | 0.4 g, 80% | NC1=C(C=C(OC=2C=NC=C(C(=O)NC)C2)C=C1)F | C13H12FN3O2
